Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[N:1]([C+:2]=[C:6]=[N-:7])([H:8])[H:9],57.5195298197885
[C:4](=[C:5]([H:11])[H:12])([H:9])[H:10].[O:1]=[C:2]([C:3](=[O:6])[H:8])[H:7]>>[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],43.39374240633477
[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:10].[C:2](=[O+:3][H:11])=[C:4]([O-:5])[N:6]([H:12])[H:13],72.961021609919
[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])([H:7])([H:8])[H:9].[C:2]([O:3][H:11])[H:10],120.01727534816798
[C:1]([c:2]1[c:3]([H:11])[n:4]([H:12])[c:5]([O:6][H:13])[n:7]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1(/[C:3](=[N:4]/[H:12])[H:11])[C:5]([O:6][H:13])=[N:7]1)([H:8])([H:9])[H:10],91.88651752708022
[O:1]([C@@:2]1([H:9])[C:3]([H:11])=[C:4]2[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8].[O:5]([H:10])[H:12]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],31.324619113803607
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]1([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13].[O:4]([H:8])[H:14],87.56045911379
[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([O-:4])=[C:5]=[O+:6][H:11])[H:10])([H:7])([H:8])[H:9],85.6829810398154
[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9]>>[C:4]([O:5][C:6](=[O:7])[H:12])([H:9])([H:10])[H:11].[N:1](=[C:2]=[O:3])[H:8],74.44800778243
[C:1]([C:2]([C:3]([O+:4]=[C-:5][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([C:7]([H:19])([H:20])[H:21])([H:16])([H:17])[H:18]>>[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],11.701184314121697
[C-:3]#[O+:4].[C:1]([O:2][C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[N:6])([H:7])([H:8])[H:9],43.81127913812141
[O:1]1[C@@:2]([C:5]#[C:6][H:10])([H:8])[C:3][C:4]1([H:7])[H:9]>>[O:1]([C:2]([C:3]#[C:4][H:9])([C:5]#[C:6][H:10])[H:8])[H:7],29.684882032262692
[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9]>>[C-:2]#[O+:3].[C:4](=[O:5])([H:10])[H:11].[N:1]([C:6](=[O:7])[H:12])([H:8])[H:9],57.684006465631
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([N:7]=[C:6]=[C:3]([C:4]#[C:5][H:12])[H:11])([H:9])[H:10])[H:8],51.5524789469086
[C:3]1([C:6]#[N:7])([H:11])[C:4]([H:8])=[C:5]1[H:12].[O:1]=[C:2]([H:9])[H:10]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],40.547629882906904
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C@:3]([O:4][H:12])([H:10])[C:6]2=[C:5]1[H:11]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C@@:3]3([H:10])[O:4][C@:5]1([H:11])[C@@:6]23[H:12],72.6245482271062
[C:1]1([H:8])=[C-:2][C@:3]12[C:4]([H:9])=[C:5]([H:10])[C:6]([H:11])=[O+:7]2>>[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8],5.075660374774799
[C:1]([C:2]([O:3][C:4]#[N:5])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6](#[N:7])[H:13]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],47.60043810476839
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[O:1]([C:2](=[C:3]([H:8])[H:9])[C:4]#[C:5][H:10])[C:6]#[N:7],103.326412921618
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[C:4](=[O+:6][C-:5]([H:14])[H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],54.4494452397166
[C:1]([C:2]([C:3](=[O:4])[C:5]([C:6]([O:7][H:14])([H:17])[H:18])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:19]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],45.77719832451075
[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C+:1]([N:2]([C:3]([O:4][H:7])=[C:5]([O-:6])[H:11])[H:10])([H:8])[H:9],47.087025966294696
[C:1](=[C:2]=[C:3]([H:8])[H:9])([C:4]([C:5]#[N:6])([H:10])[H:11])[H:7]>>[C:1](#[C:2][C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7],69.38628455678436
[C:1]([C:2]1=[C:3]([H:11])[N:5]=[C:4]([H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10],128.21326881698977
[C:1]([O+:2]=[C-:3][H:12])([H:8])([H:9])[H:10].[C:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])([H:11])[H:13]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],10.484840595127288
